US07163936B2
To a solution of methyl (3S)-3-{[(allyloxy)carbonyl]amino}butanoate (2.06 g, 10.2 mmol) and ethyl acrylate (1.11 ml, 10.2 mmol) in toluene (25 ml) was added at 40° C. sodium hydride (60% suspension in oil, 0.41 g, 10.2 mmol). The mixture was stirred for 2 hours and then was poured into diluted hydrochloric acid. The solution was extracted twice with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over magnesium sulfate. The organic solvent was removed in vacuo. To the residue were added methanol (40 ml), acetic acid (0.70 ml, 12.2 mmol) and sodium cyanoborohydride (0.77 g, 12.2 mmol) and the mixture was stirred at room temperature for 20 minutes. The solvent was removed in vacuo and the residue was purified with silica gel chromatography to give a mixture (1.21 g) of 1-allyl 3-ethyl (6S)-4-hydroxy-6-methyl-1,3-piperidinedicarboxylate and 1-allyl 3-methyl (6S)-4-hydroxy-6-methyl-1,3-piperidinedicarboxylate.

reactant | methyl (3S)-3-{[(allyloxy)carbonyl]amino}butanoate | 10.2 mmol, 2.06 g | C(C=C)OC(=O)N[C@H](CC(=O)OC)C | C9H15NO4
reactant | ethyl acrylate | 10.2 mmol, 1.11 ml | C(C=C)(=O)OCC | C5H8O2
reactant | sodium hydride | 10.2 mmol, 0.41 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | 12.2 mmol, 0.70 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 12.2 mmol, 0.77 g | C(#N)[BH3-].[Na+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 40 ml | CO | CH4O
product | 1-allyl 3-ethyl (6S)-4-hydroxy-6-methyl-1,3-piperidinedicarboxylate | 1.21 g | OC1C(CN([C@H](C1)C)C(=O)OCC=C)C(=O)OCC | C13H21NO5
